US07601728B2
tert-Butyl {(3R)-1-[7-(aminocarbonyl)-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
To a mixed solution of dimethyl sulfoxide (250 ml) and water (25 ml) were added tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (17.9 g) and potassium carbonate (4.7 g). In a water bath, an aqueous hydrogen peroxide solution (a 30-35% aqueous solution, 17 ml) was added dropwise and the resulting mixture was stirred at 25° C. for 15 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed three times with water and then once with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure to obtain the title compound (15.6 g) as a light-yellow amorphous substance.

reactant | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 17.9 g | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O4
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
solvent | Water | O | H2O
solvent | water | 25 ml | O | H2O
product | tert-Butyl {(3R)-1-[7-(aminocarbonyl)-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 15.6 g | NC(=O)C1=C(N(C2=C1N(C(N(C2=O)C)=O)C)CC2=C(C=CC=C2)Cl)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C26H33ClN6O5
